US09388189B2
(S)-2-(1-Amino-3-(benzyloxy)propyl)-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazine-5-carbonitrile
(S)-tert-Butyl (3-(benzyloxy)-1-(5-cyano-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate (50 mg, 0.09 mmol) was treated with a solution of hydrochloric acid in dioxane (4M, 350 μl, 1.4 mmol) according to the method described in Preparation 1 to obtain 42 mg (92% yield) of the title compound as a yellow solid. Purity 96%.

reactant | (S)-tert-Butyl (3-(benzyloxy)-1-(5-cyano-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)OCC[C@@H](C1=NN2C(C(N1C1=CC(=CC(=C1)F)F)=O)=C(C=C2)C#N)NC(OC(C)(C)C)=O | C28H27F2N5O4
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 1.4 mmol, 4M, 350 μl | O1CCOCC1 | C4H8O2
product | (S)-2-(1-Amino-3-(benzyloxy)propyl)-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazine-5-carbonitrile | 42 mg, 92% yield | N[C@@H](CCOCC1=CC=CC=C1)C1=NN2C(C(N1C1=CC(=CC(=C1)F)F)=O)=C(C=C2)C#N | C23H19F2N5O2
